US04291175
2-Hydroxynonanedioic Acid
A stirred mixture of 295 g. of dimethyl 2-bromononanedioate, [Acta. Chim. Acad. Sci. Hung., 46, 85 (1965)], 371 g. of anhydrous sodium carbonate, and 3 liters of water is heated at reflux for 22 hours. The solution which forms is cooled and acidified with 600 ml. of 12 N hydrochloric acid. The mixture is saturated with sodium chloride and extracted with ethyl acetate. The extract is washed with brine, dried over magnesium sulfate, and concentrated to give 184 g. of white solid, m.p. 86°-92° C.

reactant | dimethyl 2-bromononanedioate | 371 g | BrC(C(=O)OC)CCCCCCC(=O)OC | C11H19BrO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 12 N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 3 liters | O | H2O
product | 2-Hydroxynonanedioic Acid | OC(C(=O)O)CCCCCCC(=O)O | C9H16O5
